US03950343
3-Formylindole-4-carboxylic acid methyl ester (3; R1 = H and R3 = CH3)
To a stirred mixture of N-methylformanilide (15.6 g) and phosphorus oxychloride (17.7 g) is added ethylene dichloride (75 g ) followed by 4-indolecarboxylic acid methyl ester (17.5 g). The reaction mixture is stirred at room temperature for 1 1/2 hr., then at 45°-50°C for 30 minutes more. The mixture is now poured into a solution of 75 g of sodium acetate in 150 ml of ice-water. More ethylene dichloride is added. The layers are separated and the organic phase is washed with water, dried (Na2SO4) and evaporated under reduced pressure. The residual brown oil is passed through a silica gel column using 3% methanol in chloroform. Concentration of the eluate affords a solid which on recrystallization from benzene affords the pure title compound, mp 135°C.

reactant | N-methylformanilide | 15.6 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | phosphorus oxychloride | 17.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-indolecarboxylic acid methyl ester | 17.5 g | COC(=O)C=1C=2C=CNC2C=CC1 | C10H9NO2
reactant | sodium acetate | 75 g | C(C)(=O)[O-].[Na+]
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
solvent | ethylene dichloride | 75 g | C(CCl)Cl | C2H4Cl2
product | 3-Formylindole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C(=CNC2C=CC1)C=O | C11H9NO3
